US08193236B2
2-[6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-acetamide
At −78° C., ammonia (25 ml) is added to [6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-acetic acid ethyl ester (950 mg, 1.85 mmol) in a glass autoclave. The reaction mixture is stirred at room temperature for 48 hours. After removal of volatiles, the residue is recrystallized from diethylether to afford the title compound (800 mg, 90%). MS (ES+): 458 (M+H)+.

reactant | ammonia | 25 ml | N | H3N
reactant | [6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-acetic acid ethyl ester | 1.85 mmol, 950 mg | C(C)OC(CC1=C(N=C2N1C=C(C=C2)C(O[SiH2]C(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)=O | C29H34N2O3Si
product | 2-[6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-acetamide | 800 mg, 90% | C(C)(C)(C)[SiH2]OC(C=1C=CC=2N(C1)C(=C(N2)C)CC(=O)N)(C2=CC=CC=C2)C2=CC=CC=C2 | C27H31N3O2Si
